US04331674
26 g (0.091 mol) of 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester were dissolved in 150 ml of carbon tetrachloride. 4.7 ml (0.091 mol) of bromine in 50 ml of carbon tetrachloride were added dropwise at room temperature at such a rate that the bromine was steadily consumed. The mixture was then stirred for 30 minutes at room temperature. After distilling off the solvent in vacuo, 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester was obtained quantitatively and could directly be reacted further.

reactant | 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester | 0.091 mol, 26 g | C(C)OC(C(C(COC1=CC=C(C=C1)Cl)=O)(C)C)=O | C14H17ClO4
reactant | bromine | 0.091 mol, 4.7 ml | BrBr | Br2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester | C(C)OC(C(C(C(OC1=CC=C(C=C1)Cl)Br)=O)(C)C)=O | C14H16BrClO4
